US05498532
Each strain was cultured with shaking in NB medium at 30° C. for 16 hours. For the culture of the transformant, spectinomycin was added to NB medium at a concentration of 100 μg/ml. Then, 0.5 ml of the seed culture was inoculated into 5 ml of a production medium (pH 7.0) comprising 80 g/l lactose, 40 g/l (NH4)2SO4, 0.5 g/l KH2PO4, 0.5 g/l K2HPO4, 100 mg/l L-arginine and 20 g/l CaCO3 in a test tube, and shaking culture was carried out at 30° C. for 72 hours. After the culturing was finished, the culture filtrate was subjected to paper chromatography and the amount of L-ornithine formed was determined colorimetrically by using the color development with ninhydrin. The results are shown in Table 20.

reactant | spectinomycin | C[C@@H]1CC(=O)[C@]2([C@@H](O1)O[C@@H]3[C@H]([C@@H]([C@@H]([C@@H]([C@H]3O2)NC)O)NC)O)O | C14H24N2O7
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
product | L-ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
